US07737167B2
(R)-N-(5-Methylbenzimidazol-2-y1)-1,2,3,4-tetrahydro-1-naphthylamine
The title compound was prepared from 3,4-diaminotoluene and (R)-1-isothiocyanato-1,2,3,4-tetrahydronaphthalene by Procedure D. The title compound was isolated by column chromatography as the free base (off-white solid, mp 91-93° C.). MS(ES+) m/z 278 ([M+1]+, 100).

reactant | 3,4-diaminotoluene | NC=1C=C(C=CC1N)C | C7H10N2
reactant | (R)-1-isothiocyanato-1,2,3,4-tetrahydronaphthalene | N(=C=S)[C@@H]1CCCC2=CC=CC=C12 | C11H11NS
product | (R)-N-(5-Methylbenzimidazol-2-y1)-1,2,3,4-tetrahydro-1-naphthylamine | CC1=CC2=C(N=C(N2)N[C@@H]2CCCC3=CC=CC=C23)C=C1 | C18H19N3
